US07378417B2
A mixture of ethyl 5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylate (0.12 g, 0.4 mmol) and 0.5 N sodium hydroxide solution (4 mL) in methanol (4 mL) was heated to 70° C. for 2 h. The mixture was cooled, diluted with water (8 mL) and concentrated in vacuo. The aqueous solution was acidified to pH 2 by the addition of 3N HCl. The precipitate was isolated by filtration, washed with water, and dried to give 5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (0.11 g, 100%). Off-white solid. MS (ISN) 272.3 [(M−H)−]; mp 309-311° C.

reactant | ethyl 5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylate | 0.4 mmol, 0.12 g | ClC1=CC=C(C=C1)C1=NC=2N(C=C1)N=CC2C(=O)OCC | C15H12ClN3O2
reactant | sodium hydroxide | 0.5 N, 4 mL | [OH-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | water | 8 mL | O | H2O
product | 5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.11 g, 100% | ClC1=CC=C(C=C1)C1=NC=2N(C=C1)N=CC2C(=O)O | C13H8ClN3O2
